US08030438B2
(2) Synthesis of 3′,4′-diphosphono-[2,2′;5′,2″]-terthiophene
In acetonitrile, 0.2478 g (0.476 mmols) of 3′,4′-bis(diethoxyphosphoryl)-[2,2′;5′,2″]-terthiophene was dissolved, to which 0.4762 g (2.380 mmols) of commercially available iodotrimethylsilane was added at room temperature. Thereafter, the mixture was stirred at room temperature for 12 hours. After the reaction, the solvent was removed by distilling off under reduced pressure, followed by addition of methanol and stirring at room temperature for further 12 hours. The methanol was removed by distilling off under reduced pressure, followed by addition of distilled water under stirring and separation of an aqueous phase. The thus separated aqueous phase was washed several times with chloroform and the aqueous phase was concentrated and evaporated to dryness to obtain the specified substance in the form of yellow crystals at a yield of 0.1742 g (yield: 90%).

reactant | 3′,4′-bis(diethoxyphosphoryl)-[2,2′;5′,2″]-terthiophene | 0.476 mmols, 0.2478 g | C(C)OP(=O)(OCC)C1=C(SC(=C1P(=O)(OCC)OCC)C=1SC=CC1)C=1SC=CC1 | C20H26O6P2S3
reactant | iodotrimethylsilane | I[Si](C)(C)C | C3H9ISi
solvent | acetonitrile | C(C)#N | C2H3N
product | 3′,4′-diphosphono-[2,2′;5′,2″]-terthiophene | yield: 90% | P(=O)(O)(O)C1=C(SC(=C1P(=O)(O)O)C=1SC=CC1)C=1SC=CC1 | C12H10O6P2S3
